US07666879B2
A. [4-(7-Chloro-imidazo[1,2-a]pyridin-3-yl)-benzyl]-carbamic acid tert-butyl ester
Add to a suspension of 3-iodo-7-chloro-imidazo[1,2-a]pyridine (4.80 g, 17.2 mmol, 1.0 eq) in dioxane (90 mL) 2 M Na2CO3 (30 mL) and (4-aminomethylphenyl)-boronic acid (3.88 g, 20.7 mmol, 1.2 eq.). Deoxygenate the mixture and fill with nitrogen. Add tetrakis (triphenylphosphine) palladium (0.50 g, 0.43 mmol, 0.025 eq). Deoxygenate the reaction mixture and fill with nitrogen. Stir the reaction mixture at 85° C. for three days. Add (Boc)2O (4.51 g, 20.7 mmol, 1.2 eq.) and stir the mixture at 60° C. for 20 minutes. Concentrate the mixture to dryness in vacuo. Slurry the resulting solid into dichloromethane/methanol and filter through Celite®521. Concentrate the solution in vacuo to a yellow solid (5.60 g). Employ silica gel flash chromatography using a 0-4% MeOH/DCM gradient to afford 4.50 g (12.6 mmol, 73%) of the title compound as a slightly yellow solid as product. MS(ES), m/z 358 (M+1).

reactant | 3-iodo-7-chloro-imidazo[1,2-a]pyridine | 17.2 mmol, 4.80 g, 1.0 eq | IC1=CN=C2N1C=CC(=C2)Cl | C7H4ClIN2
reactant | (4-aminomethylphenyl)-boronic acid | 20.7 mmol, 3.88 g, 1.2 eq. | NCC1=CC=C(C=C1)B(O)O | C7H10BNO2
reactant | (Boc)2O | 20.7 mmol, 4.51 g, 1.2 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 2 M, 90 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis (triphenylphosphine) palladium | 0.43 mmol, 0.50 g, 0.025 eq | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | [4-(7-Chloro-imidazo[1,2-a]pyridin-3-yl)-benzyl]-carbamic acid tert-butyl ester | 12.6 mmol, 4.50 g, 73% | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)Cl)=O | C19H20ClN3O2
